US07799810B2
Step 2: N-[5-(4-Acetyl-3-fluoro-phenyl)-4-methyl-thiazol-2-yl]-acetamide
Dry, degassed DMF (25 ml) is added to 1-(4-bromo-2-fluoro-phenyl)-ethanone (WO 2003095441) (1.25 g, 5.76 mmol), N-(4-methyl-thiazol-2-yl)-acetamide (0.75 g, 4.80 mmol), Bis (tri-t-butylphosphine) palladium (0) (0.245 g, 0.48 mmol) and caesium carbonate (3.13 g, 9.60 mmol), and the reaction mixture heated to 150° C. for 4 hours. The reaction mixture is filtered through celite and the filtrate reduced in vacuo. Purification of the crude product by chromatography on silica eluting with 2:1 iso-hexane:EtOAc affords the title compound as a yellow solid. (MH+) 293.25

reactant | 1-(4-bromo-2-fluoro-phenyl)-ethanone | 5.76 mmol, 1.25 g | BrC1=CC(=C(C=C1)C(C)=O)F | C8H6BrFO
reactant | N-(4-methyl-thiazol-2-yl)-acetamide | 4.80 mmol, 0.75 g | CC=1N=C(SC1)NC(C)=O | C6H8N2OS
reactant | caesium carbonate | 9.60 mmol, 3.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Bis (tri-t-butylphosphine) palladium (0) | 0.48 mmol, 0.245 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | N-[5-(4-Acetyl-3-fluoro-phenyl)-4-methyl-thiazol-2-yl]-acetamide | C(C)(=O)C1=C(C=C(C=C1)C1=C(N=C(S1)NC(C)=O)C)F | C14H13FN2O2S
